US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole. The yield was 70%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 83-84° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole | ClCC=1N=C(OC1)C=1SC2=C(C1)CCCC2 | C12H12ClNOS
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(4,5,6,7-tetrahydro-2-benzothienyl)oxazole | yield was 70% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)C=2SC3=C(C2)CCCC3)C=C1 | C24H25N3O2S
